Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Penicillins / Coumadin / Oxycodone / Megestrol 
Acetate / Remeron
 
Attending: ___.
 
Chief Complaint:
Rectal Pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yoM w/ DM2, prostate Ca s/p XRT, AF, and recent bladder 
rupture repair on ___. He was discharged to rehab on ___ 
w/ a ___ in place. Foley was removed last week and this week 
he has had increasing PVRs (~300cc). A Foley was replaced 2 days 
ago. Since yesterday, patient has complained of rectal pain and 
spasming. He does note chronic constipation but had no 
improvement in discomfort with BM. +Chills. No n/v. Denies CP or 
SOB. Incidentally, today he noted the onset of L facial/neck 
swelling which has also been tender.  

In the ED, 98.4, 95/60, 102, 20, 100%RA. On exam, patient was 
noted to have large, fluctuant, tender L parotid gland as well 
as a tender, boggy prostate. His abdomen was soft. Labs were 
remarkable for a normal WBC count but left shifted. A U/A was 
positive. He received morphine 4 mg for pain in the ED and was 
sent for a CT neck which showed L parotiditis w/o visualized 
stone or abscess. He received vancomycin and cipro and was 
admitted for further management.  

On ROS, patient denies any recent fevers, chills as above. No 
cough, sore throat, myalgias, stuffy nose, runny nose. No sick 
contacts. No chest pain or SOB. No abdominal pain. Rectal pain 
as above. Otherwise negative.  
 
 
Past Medical History:
# DMII- on insulin  
# severe chronic axonal neuropathy, radiculopathy and  
plexopathy (due to XRT) per Dr. ___, with right foot drop  
for many years. L3 compression fracture.  
# prostate CA s/p XRT dx'd ___  
# cataract s/p bilateral laser surgery, also with "macular  
edema" s/p dexamethasone injxn.  
# Hard of hearing  
# history of utis, including MRSA + UTI (last two urine samples  

negative for MRSA).  
# atrial fibrillation- not on coumadin due to h/o bleed  
# hyperthryoidsm- worsened on amiodarone tx, now on  
methimazole, followed by endocrinology  
# left thyroid nodule- benign FNA in past  
# h/o CVA ___  
# chronic urinary incontinence, s/p TURP ___  
# s/p bladder rupture and repair ___  

 
Social History:
___
Family History:
No illnesses, strokes, DM or early heart attacks run in the  
family. 
 
Physical Exam:
T: 96.0 BP: 135/90 HR: 100 RR: 22 O2 92% RA  
Gen: Pleasant, elderly gentleman resting comfortably in bed  
HEENT: No conjunctival pallor. No icterus. Tacky MMs. Prominent 
swelling over L parotid gland equisitely TTP.  
NECK: Supple, No LAD, No JVD.  
CV: Irreg irreg. nl S1, S2. Sys murmur  
LUNGS: CTAB  
ABD: NABS. Soft, NT, ND. Healed midline suprapubic surgical 
incision. No suprapubic tenderness. Rectal exam deferred.  
EXT: WWP, NO CCE. 2+ DP pulses ___  
SKIN: Ecchymoses over UEs bilaterally  
NEURO: A&Ox3. CN ___ grossly intact. Moving all extremities  

 
Pertinent Results:
ECG ___: AF @ 96. Nl axis. Nonspecific ST/TW changes. Unchanged 
from prior ___.  

___ CXR: my read: no acute process  
  
___ CT neck: prelim read: IMPRESSION:  
1. Left parotiditis without evidence for abscess or sialolith.  
2. Large left thyroid mass is likely multinodular goiter, though 
ultrasound is recommended for further evaluation in the absence 
of comparative imaging.  
3. Incidental azygos fissure.  
 
Brief Hospital Course:
___ yo M with PMH of afib, DM2, hyperthyroidism, prostate cancer 
and recent bladder rupture repair ___, here with rectal pain 
from prostatitis, and facial swelling and pain from parotiditis. 
 
  
Prostatitis:  Admitted and found to have a boggy prostate, 
painful on rectal exam. h/o prostate cancer treated and recent 
bladder rupture repair in ___. Patient now has sx of rectal 
pain without relation to bowel movements. Foley in place and 
draining good urine.  Originally started on cipro and vanco to 
cover broadly for prostatitis.  Urine cultures eventually grew 
klebsiella resistent to cipro and he was switched to ceftriaxone 
on ___ (vancomycin was discontinued at that time).  He will 
need to complete a 4 week course (last day ___.  He will 
need to followup with Dr ___ in ___ clinic on ___ 
2:30pm.  His foley should remain inplace until he is evaluated 
by urology.

Parotiditis:  The patient had profound facial swelling and 
tenderness w/ parotiditis on CT scan (no stone).  Originally 
treated with vancomycin but switched to clindamycin on ___.  
This should be continued for a total of 10 days.  He should 
continue lemon drops and parotid massage until his symptoms 
resolve. 

Speech and Swallow:  He had a S+S evaluation on ___.  They 
recommended advancing the pt to a PO diet of thin liquids and 
ground consistency solids.  Pills whole with purees or nectar 
thick liquids.  Avoid mixed consistencies that contain liquids 
and solids together (cereal with milk, chicken noodle soup ect). 
 Continue 1:1 supervision.  This will need to be re-evaluated as 
the patient continues to improve.

Diabetes: The patient was originally kept on his home regimen 
but continued to have low blood sugars.  This worsened as his PO 
intake decreased.  His insulin doses were repeatedly decreased 
to a final dose of NPH  6 units each morning plus a Humalog 
sliding scale.  This should be reevaluated as his PO intake 
improves.

Acute Renal Failure: The patients creatinine continued to rise 
throughout his early hospital course.  He had decreased PO 
intake and the thought was that this was pre-renal.  He received 
fluids and his creatinine started to trend down near baseline.  
He should have his creatinine checked every 3 days until it 
normalizes

Nutrition: The patient had very poor PO intake and a nutrition 
consult was called. He should have 1:1 supervision while eating 
and he should be repeatedly encouraged to increase his PO 
intake. If he is not eating and drinking appropriately he should 
received IVF's daily.
  
A fib: The patient was maintained on bisoprolol.  He is not on 
coumadin given bleeds in the past. 
  
Hyperthyroidism: TFTs normal in ___.  He was continued on 
tapazol. 

DM2: He was continued on his outpatient insulin regimen. 

Daugther: ___ work
___ cell 
 
Medications on Admission:
BISOPROLOL FUMARATE 5 mg--1 tablet(s) by mouth daily  
Multi-Vitamin --one tablet(s) by mouth q.d.  
NOVOLIN N 100 unit/mL--44 units qam  
SIMVASTATIN 10 mg--one tablet(s) by mouth daily  
TAPAZOLE 5 mg--1 tablet(s) by mouth 1 am, 1 pm  

 
Discharge Medications:
1. Heparin Flush PICC (100 units/ml) 2 mL IV DAILY:PRN 
10 ml NS followed by 2 mL of 100 Units/mL heparin (200 units 
heparin) each lumen Daily and PRN.  Inspect site every shift. 
2. Ceftriaxone-Dextrose (Iso-osm) 1 gram/50 mL Piggyback Sig: 
One (1) g Intravenous Q24H (every 24 hours) for 25 days: last 
day of treatment should be ___.  
3. Clindamycin HCl 150 mg Capsule Sig: Two (2) Capsule PO Q6H 
(every 6 hours) for 7 days: last day of treatment should be 
___.  
4. Bisoprolol Fumarate 5 mg Tablet Sig: One (1) Tablet PO QD (). 
 
5. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Ibuprofen 400 mg Tablet Sig: Two (2) Tablet PO Q8H (every 8 
hours) as needed.  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
9. Methimazole 5 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
10. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for pain.  
11. Escitalopram 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  

12. Insulin Lispro 100 unit/mL Solution Sig: ___ units 
Subcutaneous four times a day: please take according to sliding 
scale.  
13. Insulin NPH Human Recomb 100 unit/mL Cartridge Sig: Six (6) 
units Subcutaneous qAM.  
14. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Prostatis
Parotitis

Secondary Diagnosis:
Atrial Fibrillation
Diabetes Mellitus
Hypertension
s/p bladder rupture and repair
Urinary Retention

 
Discharge Condition:
Stable, afebrile.  

 
Discharge Instructions:
You were evaluated in the hospital for rectal pain.  You were 
diangosed with prostatitis.  You are being treated with an 
antibiotic called ceftriaxone.  You will need to be receiving 
this medication for 4 weeks.  Your last day of treatment will be 
___.

You were also found to have an infection of your left parotid 
gland. For this, you are being treated with an antibiotic called 
clindamycin for a total of 10 days.  Your last day of this 
medication will be ___.  

While you were here, your kidney function decreased.  We feel 
you were not eating and drinking enough.  We supplemented this 
with IV fluids which helped, but you will need to try to eat and 
drink enough each day.

We also had to decrease your insulin dose because your blood 
sugars were too low.  This can be readjusted at the rehab 
facility as you start to eat more.

Medication changes:
1. You are taking an antibiotic called ceftriaxone.  You will 
need to take this anitbiotic once a day for a total of 4 weeks 
(you get this through you IV)
2. You are also taking an antibiotic called clindamycin.  You 
will take this for a total of 10 days, last day ___.
 
Followup Instructions:
___